### PR TITLE
[Merged by Bors] - feat(Data/List/SignVariations): add List.signVariations

### PR DESCRIPTION
**Pull request by tomaz1502**
This PR adds `List.signVariations`, which counts the number of variations in a list, ignoring all zeroes, as well as its basic API. This counting is the mechanism of both [Descartes' Rule of Signs](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Algebra/Polynomial/RuleOfSigns.lean) and of Sturm-Tarski theorem, which will be added in upcoming PRs.

This PR also adapts `RuleOfSigns.lean` to use the new API, simplifying some of its proofs.

The contents of this PR were manually written. Claude Code (Fable 5.1) was used to review the code.

### CODE REVIEW

**Comment by kim-em** [comment]
I'm posting some review comments, identified with the assistance of Claude and Codex. I'm not putting separate ":robot:" attributions on each comment.

File: Mathlib/Data/List/SignVariations.lean [hunk 1]
```diff
@@ -0,0 +1,129 @@
...
+-/
+module
+
+public import Mathlib.Data.List.Destutter
+public import Mathlib.Basic.Sign.Basic
+
+/-!
+# Sign variations of a list
+
+This files defines `List.signVariations`, for counting the number of changes of sign in a list
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]:
```suggestion
This file defines `List.signVariations`, for counting the number of changes of sign in a list
```

File: Mathlib/Data/List/SignVariations.lean [hunk 2]
```diff
@@ -0,0 +1,129 @@
...
+after all zeroes were removed. For example, `[1, 0, -2, 3, 3]` has two sign variations, and so
+does `[1, -2, 3]`.
+
+This is the counting device behind Descartes' rule of signs (applied to the list of coefficients
+of the polynomial) and Sturm's theorem (applied to the values of a Sturm sequence at a
+point, or to its leading coefficients for the count at infinity).
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]: Only right at `+∞`; at `-∞` each entry picks up `(-1)^natDegree`.

```suggestion
point, or to the signs of its leading coefficients, adjusted by degree parity at `-∞`, for the
count at infinity).
```

File: Mathlib/Data/List/SignVariations.lean [hunk 3]
```diff
@@ -0,0 +1,129 @@
...
+namespace List
+
+variable {α : Type*} [Zero α] [LinearOrder α]
+
+/-- The number of sign variations of a list: the number of adjacent pairs of opposite sign once
+all zero entries have been removed. -/
+def signVariations (l : List α) : ℕ :=
+  letI signs := l.map SignType.sign
+  letI nonzero_signs := signs.filter (· ≠ 0)
+  (nonzero_signs.destutter (· ≠ ·)).length - 1
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]: `letI` is for instances; use `let` or just inline.

```suggestion
def signVariations (l : List α) : ℕ :=
  (((l.map sign).filter (· ≠ 0)).destutter (· ≠ ·)).length - 1

example : signVariations [1, 0, -2, 3, 3] = 2 := by decide
```

File: Mathlib/Data/List/SignVariations.lean [hunk 4]
```diff
@@ -0,0 +1,129 @@
...
+
+@[simp]
+lemma signVariations_nil :
+    signVariations ([] : List α) = 0 := by
+  trivial
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]:
```suggestion
lemma signVariations_nil : signVariations ([] : List α) = 0 := rfl
```

File: Mathlib/Data/List/SignVariations.lean [hunk 5]
```diff
@@ -0,0 +1,129 @@
...
+
+@[simp]
+lemma signVariations_singleton : ∀ (a : α), signVariations [a] = 0 := by
+  intro a
+  rcases eq_or_ne a 0 with ha | ha <;> simp [signVariations, ha]
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]: Please move binders before the colon, here and in the next three lemmas.

```suggestion
lemma signVariations_singleton (a : α) : signVariations [a] = 0 := by
  rcases eq_or_ne a 0 with ha | ha <;> simp [signVariations, ha]
```

File: Mathlib/Data/List/SignVariations.lean [hunk 6]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- A leading zero entry does not change the sign variations. -/
+@[simp]
+lemma signVariations_zero_cons : ∀ (b : α) (as : List α),
+    signVariations (0 :: b :: as) = signVariations (b :: as) := by
+  simp [signVariations]
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]: This actually holds for every `l`. This is also the form used in #43512, so it makes that rebase mechanical. The general "zeros are ignored" statement is worth having next to it.

```suggestion
lemma signVariations_zero_cons (l : List α) : signVariations (0 :: l) = signVariations l := by
  cases l <;> simp [signVariations]

/-- Zero entries do not contribute to the sign variations. -/
@[simp]
lemma signVariations_filter_ne_zero (l : List α) :
    signVariations (l.filter (· ≠ 0)) = signVariations l := by
  simp [signVariations, filter_map, Function.comp_def, sign_eq_zero_iff]
```

File: Mathlib/Data/List/SignVariations.lean [hunk 7]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- A zero entry in second position does not change the sign variations. -/
+@[simp]
+lemma signVariations_cons_zero_cons : ∀ (a : α) (as : List α),
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]:
```suggestion
lemma signVariations_cons_zero_cons (a : α) (as : List α) :
```

File: Mathlib/Data/List/SignVariations.lean [hunk 8]
```diff
@@ -0,0 +1,129 @@
...
+    signVariations (a :: 0 :: as) = signVariations (a :: as) := by
+  simp [signVariations, filter]
+
+/-- Prepending a nonzero entry `a` to a list starting with a nonzero entry `b` adds one sign
+variation exactly when `a` and `b` have opposite signs. -/
+lemma signVariations_cons_cons_of_ne_zero : ∀ (a b : α) (as : List α),
+    a ≠ 0 → b ≠ 0 →
+      signVariations (a :: b :: as) =
+        (if sign a = sign b then 0 else 1) + signVariations (b :: as) := by
+  intros a b as ha hb
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]: Named hypotheses, `a b` implicit, recursive call first (as in `List.count_cons`; `RuleOfSigns.lean` already `add_comm`s it into this shape).

```suggestion
lemma signVariations_cons_cons_of_ne_zero {a b : α} (as : List α) (ha : a ≠ 0) (hb : b ≠ 0) :
    signVariations (a :: b :: as) =
      signVariations (b :: as) + if sign a = sign b then 0 else 1 := by
```

File: Mathlib/Data/List/SignVariations.lean [hunk 9]
```diff
@@ -0,0 +1,129 @@
...
+      sign a :: sign b :: (as.map sign).filter (· ≠ 0) := by
+    simp [ha', hb']
+  have hf2 : ((b :: as).map sign).filter (· ≠ 0) = sign b :: (as.map sign).filter (· ≠ 0) := by
+    simp [hb']
+  have hne : ((sign b :: (as.map sign).filter (· ≠ 0)).destutter (· ≠ ·)).length ≠ 0 := by
+    rw [ne_eq, length_eq_zero_iff, destutter_eq_nil]
+    simp
+  simp only [signVariations, hf1, hf2, destutter_cons_cons, ← destutter_cons']
+  by_cases h : sign a = sign b
+  · rw [ite_eq_right (not_not.mpr h), ite_eq_left h, h, zero_add]
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]:
```suggestion
  · rw [ite_eq_right (not_not.mpr h), ite_eq_left h, h, add_zero]
```

File: Mathlib/Data/List/SignVariations.lean [hunk 10]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- `signVariations` only depends on the signs of the entries, so it is invariant under any
+map that preserves signs (e.g. casts, or `sign` itself). -/
+lemma signVariations_map {β : Type*} [Zero β] [LinearOrder β] {f : α → β}
+    (hf : ∀ x, sign (f x) = sign x) (l : List α) :
+    signVariations (l.map f) = signVariations l := by
+  have : (l.map f).map sign = l.map sign := by
+    rw [map_map]
+    exact map_congr_left fun x _ => hf x
+  simp only [signVariations, this]
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean]: The underlying fact is a congruence, and it can be stated across types. `RuleOfSigns.lean` needs exactly this (see below), and `signVariations_map_sign` is what Sturm wants when passing between values and their signs.

```suggestion
/-- `signVariations` only depends on the signs of the entries. -/
lemma signVariations_congr {β : Type*} [Zero β] [LinearOrder β] {l₁ : List α} {l₂ : List β}
    (h : l₁.map sign = l₂.map sign) : signVariations l₁ = signVariations l₂ := by
  simp only [signVariations, h]

/-- `signVariations` is invariant under any map that preserves signs (e.g. casts). -/
lemma signVariations_map {β : Type*} [Zero β] [LinearOrder β] {f : α → β}
    (hf : ∀ x, sign (f x) = sign x) (l : List α) :
    signVariations (l.map f) = signVariations l :=
  signVariations_congr (by rw [map_map]; exact map_congr_left fun x _ => hf x)

@[simp]
lemma signVariations_map_sign (l : List α) : signVariations (l.map sign) = signVariations l :=
  signVariations_map (fun x => by cases sign x <;> decide) l
```

File: Mathlib/Data/List/SignVariations.lean [hunk 11]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- A run of zero entries after the head does not change the sign variations. -/
+@[simp]
+lemma signVariations_cons_replicate_zero_append (a : α) (n : ℕ) (l : List α) :
+    signVariations (a :: (replicate n 0 ++ l)) = signVariations (a :: l) := by
+  have h : ((replicate n (0 : α) ++ l).map sign).filter (· ≠ 0) = (l.map sign).filter (· ≠ 0) := by
+    simp [filter_append]
+  simp only [signVariations, map_cons, filter_cons, h]
```
Comment (kim-em) [inline Mathlib/Data/List/SignVariations.lean:120]: `simp` can't prove `signVariations (a :: replicate n 0) = 0` from the `++ l` form (it normalises `++ []` away first). This closes the gap and makes `signVariations_monomial` a plain `simp`.

```suggestion
  simp only [signVariations, map_cons, filter_cons, h]

/-- A list whose only nonzero entry is the head has no sign variations. -/
@[simp]
lemma signVariations_cons_replicate_zero (a : α) (n : ℕ) :
    signVariations (a :: replicate n 0) = 0 := by
  simpa using signVariations_cons_replicate_zero_append a n []
```

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 12]
```diff
@@ -47,10 +47,7 @@ variable {R : Type*} [Semiring R] [LinearOrder R] (P : Polynomial R)
 
 /-- Counts the number of times that the coefficients in a polynomial change sign, with
 the convention that 0 can count as either sign. -/
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean]: "0 can count as either sign" is misleading: `[1, 0, 1]` has no variations, but reading the `0` as negative would give two.

```suggestion
/-- Counts the number of times that the coefficients in a polynomial change sign, ignoring
zero coefficients. -/
```

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 13]
```diff
@@ -62,51 +59,36 @@ theorem signVariations_zero : signVariations (0 : R[X]) = 0 := by
 theorem signVariations_monomial (d : ℕ) (c : R) : signVariations (monomial d c) = 0 := by
   by_cases hcz : c = 0
   · simp [hcz]
-  · simp [hcz, signVariations, coeffList_eraseLead (mt (monomial_eq_zero_iff c d).mp hcz)]
+  · simp [hcz, signVariations, List.signVariations]
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean]: With `List.signVariations_cons_replicate_zero` as a simp lemma:

```suggestion
  · simp [hcz, signVariations]
```

**Review by kim-em — COMMENTED** [review]
- The docstring of `signVariations_X_sub_C_mul_eraseLead_le` (L242, untouched by this PR) says the two counts are "the same", but the lemma only proves `≤`, and equality is false: `P = X^2 + X + 10`, `η = 2` gives 3 vs 1. Worth fixing while you're here.
- PR description: "This counting mechanism of both ..." is missing a verb ("This is the counting mechanism behind both ...").

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 14]
```diff
@@ -62,51 +59,36 @@ theorem signVariations_zero : signVariations (0 : R[X]) = 0 := by
...
+  by_cases he : P.eraseLead = 0
+  · simp [he, hl]
+  · obtain ⟨ls, hls⟩ := coeffList_eq_cons_leadingCoeff he
+    have hl' : SignType.sign P.eraseLead.leadingCoeff ≠ 0 := by simp [he]
+    rw [hls, List.signVariations_cons_cons_of_ne_zero _ _ _ (leadingCoeff_ne_zero.mpr h)
+      (leadingCoeff_ne_zero.mpr he), add_comm]
+    congr 1
+    cases hs : SignType.sign P.leadingCoeff
+    <;> cases ht : SignType.sign P.eraseLead.leadingCoeff
+    <;> first | exact absurd hs hl | decide | exact absurd ht hl'
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean]: With the reordered list lemma the `add_comm` isn't needed, and the case split can be done by `decide`.

```suggestion
    rw [hls, List.signVariations_cons_cons_of_ne_zero _ (leadingCoeff_ne_zero.mpr h)
      (leadingCoeff_ne_zero.mpr he)]
    congr 1
    revert hl hl'
    cases SignType.sign P.leadingCoeff <;> cases SignType.sign P.eraseLead.leadingCoeff <;> decide
```

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 15]
```diff
@@ -191,7 +162,7 @@ lemma signVariations_eraseLead_mul_X_sub_C (hη : 0 < η) (hP₀ : 0 < leadingCo
   suffices eraseLead (eraseLead ((X - C η) * P)) = eraseLead ((X - C η) * P.eraseLead) by
     suffices (coeffList (eraseLead ((X - C η) * P))).map SignType.sign =
       (coeffList ((X - C η) * P.eraseLead)).map SignType.sign by
-        rw [signVariations, signVariations, this]
+        rw [signVariations, signVariations, List.signVariations, List.signVariations, this]
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean]:
```suggestion
        exact List.signVariations_congr this
```

**Comment by kim-em** [comment]
bors merge
